US07868047B2
(a) 3,5-Dimethoxy-4-isopropyl benzyl bromide
To 3,5-Dimethoxy-4-1-propylbenzyl alcohol (12.57 g, 59.8 mmol) in dry ether (100 mL) at 0° C. was added PBr3 (3.0 mL, 31.2 mmol) dropwise under nitrogen. The reaction was monitored by TLC. After the reaction was completed (˜4 h), water (180 mL) was added. The organic layer was separated and the aqueous layer was extracted with ether (3×50 mL). The extract was washed with water (20 mL), sat. Na2CO3 (20 mL), water (20 mL) and brine (20 mL), and dried over anhydrous sodium sulfate. Evaporation of the solution yielded pure bromide (14.93 g, 91.4%) as a white solid. 1HNMR (CDCl3, ppm): δ 1.29 (d, J=7.1 Hz, 6H), 3.64 (hept, J=7.1 Hz, 1H), 3.84 (s, 6H), 4.50 (s, 2H), 6.60 (s, 2H).

reactant | 3,5-Dimethoxy-4-1-propylbenzyl alcohol | 59.8 mmol, 12.57 g | COC=1C=C(CO)C=C(C1CCC)OC | C12H18O3
reactant | PBr3 | 31.2 mmol, 3.0 mL | P(Br)(Br)Br | Br3P
reactant | water | 180 mL | O | H2O
reactant | ether | 100 mL | CCOCC | C4H10O
product | 3,5-Dimethoxy-4-isopropyl benzyl bromide | 14.93 g, 91.4% | COC=1C=C(CBr)C=C(C1C(C)C)OC | C12H17BrO2
